US05215994
To a solution of 1-(4-ethoxycarbonylphenyl)-4-formylpyrrole-2-carbonitrile (2.0 g) in 1,2-dichloroethane (10 ml) was added sodium borohydride (296 mg) in one portion under nitrogen at ambient temperature. The mixture was stirred for one hour at the same temperature and then quenched with aqueous saturated ammonium chloride solution at 5° C. The organic layer was washed with water and brine, dried, and concentrated in vacuo. The residue was purified by silica gel column chromatography eluted by a mixture of ethyl acetate and n-hexane (2:1) to give 1-(4-ethoxycarbonylphenyl)-4-hydroxymethylpyrrole-2-carbonitrile (1.3 g) as a white solid.

reactant | 1-(4-ethoxycarbonylphenyl)-4-formylpyrrole-2-carbonitrile | 2.0 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)C=O)C#N | C15H12N2O3
reactant | sodium borohydride | 296 mg | [BH4-].[Na+]
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
product | 1-(4-ethoxycarbonylphenyl)-4-hydroxymethylpyrrole-2-carbonitrile | 1.3 g | C(C)OC(=O)C1=CC=C(C=C1)N1C(=CC(=C1)CO)C#N | C15H14N2O3
